Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Episodic flaccid nonresponsiveness
 
Major Surgical or Invasive Procedure:
Continuous EEG
Bone Marrow Biopsy ___

 
History of Present Illness:
Ms. ___ is a ___ female with a history of chronic 
leukopenia (followed by Dr. ___ and fatigue p/w ___ 
weeks of episodic severe fatigue. The patient was at her 
hematologist's office when she had a ___ minute episode of 
flaccid nonresponsiveness, which prompted her hematologist to 
send her to the ED. 

The patient describes episodes lasting ___ minutes where she 
feels too tired to respond to stimuli or move her muscles 
occurring multiple times per day over the past ___ weeks. She 
has experienced these episodes in the past, first about ___ years 
ago around the time of the death of her mother and getting laid 
off from her job, and ascribed them to being very tired. 
However, she used to only get them once or twice a year, and has 
never experienced them with such frequency. She is highly 
concerned about these episodes interfering with her work and 
daily functioning. Prior to these past ___ weeks, she describes 
an active lifestyle with frequent ping pong, gym attendance, 
yoga, and meditation, but she has recently felt too tired to 
engage in these activities. She has experienced these episodes 
while at work and also when driving, which has resulted in a 
minor car accident. She also endorses increased sleep, and is 
now sleeping ___ hours/night from her baseline of ___. She has 
been using ginseng to try to increase her energy level, but 
otherwise has not been taking any medications. 

Additionally, the patient endorses bloating and abdominal pain 
that is preventing her from sleeping in the past few weeks since 
her endoscopy. She has tried modifying her diet to prevent the 
bloating, which has been helpful. She has been diagnosed with H. 
pylori in the past, but declined triple therapy because she does 
not like to take medications. 
 
Past Medical History:
- Eczematous dermatitis
- Leukopenia
- H. pylori (untreated) 
 HX OVARIAN CYST REMOVAL  
 LEFT LEG FRACTURE  

 
Social History:
___
Family History:
Mother died of stroke; father died of biliary cancer. 
 
Physical Exam:
admission exam:
VS: 97.9  53  124/64 18 96/RA 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva
NECK: supple, no LAD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, mild epigastric tenderness, 
norebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, CN ___ intact, strength ___ and sensation intact 
proximally and distally throughout
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

discharge exam: 
VS: 97.9 106/60 52 18 98% Ra   
GENERAL: Appears comfortable. Alert, cooperative, and
interactive. No acute distress. 
HEENT: PERRL. No lesions of oral mucosa.
NECK: supple, no LAD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: soft, nondistended, nontender, no rebound/guarding, no
hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, CN ___ intact, strength ___ and sensation intact
proximally and distally throughout
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 
 
Pertinent Results:
ADMISSION LABS
___ 01:50PM BLOOD WBC-3.6* RBC-3.83* Hgb-11.7 Hct-34.3 
MCV-90 MCH-30.5 MCHC-34.1 RDW-12.0 RDWSD-39.3 Plt ___
___ 01:50PM BLOOD ___ PTT-30.2 ___
___ 01:50PM BLOOD Glucose-106* UreaN-16 Creat-0.6 Na-142 
K-4.3 Cl-100 HCO3-29 AnGap-13
___ 01:50PM BLOOD ALT-20 AST-26 LD(LDH)-150 AlkPhos-93 
TotBili-0.2
___ 06:50PM BLOOD cTropnT-<0.01
___ 01:50PM BLOOD Calcium-8.4 Phos-5.1* Mg-2.2
___ 01:50PM BLOOD TSH-1.3
___ 07:00AM BLOOD Cortsol-7.9
___ 06:50PM BLOOD CRP-0.5
___ 07:00AM BLOOD HIV Ab-NEG
___ 06:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DAILY CBCs
___ 07:00AM BLOOD WBC-3.1* RBC-3.70* Hgb-11.2 Hct-33.1* 
MCV-90 MCH-30.3 MCHC-33.8 RDW-12.0 RDWSD-39.3 Plt ___
___ 07:32AM BLOOD WBC-2.8* RBC-3.67* Hgb-11.2 Hct-32.5* 
MCV-89 MCH-30.5 MCHC-34.5 RDW-11.9 RDWSD-38.7 Plt ___
___ 07:35AM BLOOD WBC-2.4* RBC-3.71* Hgb-11.5 Hct-32.9* 
MCV-89 MCH-31.0 MCHC-35.0 RDW-12.0 RDWSD-39.1 Plt ___
___ 07:05AM BLOOD WBC-2.6* RBC-3.91 Hgb-11.8 Hct-34.7 
MCV-89 MCH-30.2 MCHC-34.0 RDW-12.3 RDWSD-39.8 Plt ___

PERTINENT IMAGING:
___ Imaging CT HEAD W/O CONTRAST 
FINDINGS:  
  
There is no evidence of infarction, hemorrhage, edema, or mass.  
The 
ventricles and sulci are normal in size and configuration. 
  
There is no evidence of fracture.  A small right parietal 
osteoma is 
unchanged.  There is moderate mucosal thickening of the anterior 
ethmoidal air cells and mucous retention cysts within the 
sphenoid sinus.  The visualized portion of the paranasal 
sinuses, mastoid air cells, and middle ear cavitiesare other 
clear.  The visualized portion of the orbits are 
unremarkable. 
  
IMPRESSION:  
No evidence of acute intracranial process. 

___ Imaging MR HEAD W & W/O CONTRAST 
FINDINGS: 
Ventricles, sulci, and cisterns appear normal.  Small foci of 
hyperintense 
signal on T2/FLAIR within the subcortical and periventricular 
matter 
nonspecific, but likely reflect the sequela of mild chronic 
small vessel 
disease.  There is no acute infarct, intracranial hemorrhage, 
mass effect, or abnormal intracranial enhancement.  The major 
arterial flow voids are 
preserved.  The major cortical veins and dural venous sinuses 
are patent. 
  
There is a mucous retention cyst within the right sphenoid 
sinus, with a 
central focus of inspissated debris, and mild mucosal thickening 
within a few anterior and posterior ethmoid air cells.  The 
orbits are unremarkable.
There are degenerative changes of the bilateral 
temporomandibular joints. 
  
IMPRESSION:  
Probable mild chronic small vessel disease.  No abnormal 
intracranial 
enhancement. 

DISCHARGE LABS:
___ 11:00AM BLOOD WBC-3.0* RBC-3.81* Hgb-11.6 Hct-33.7* 
MCV-89 MCH-30.4 MCHC-34.4 RDW-12.1 RDWSD-39.0 Plt ___
___ 11:00AM BLOOD Glucose-83 UreaN-15 Creat-0.6 Na-138 
K-4.1 Cl-100 HCO3-25 AnGap-13
___ 11:00AM BLOOD Calcium-8.4 Phos-4.0 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ female with a history of H. pylori 
(untreated), chronic fatigue, and leukopenia p/w episodes of 
severe fatigue lasting ___ minutes with unresponsiveness to 
verbal prompting.

ACUTE ISSUES
=============================
#Fatigue. Patient has been having chronic fatigue for multiple 
years, with acute worsening of her symptoms in the past few 
weeks. She has ___ episodes of severe fatigue where she 
becomes unresponsive to verbal stimuli while remaining conscious 
and is aware of surroundings, but feels too tired to respond. 
She also notes increased sleep ___ hours/night), low energy, 
reduced interest in activities she has previously enjoyed (ping 
pong, yoga), and difficulty concentrating on her work. She 
denied suicidality. Neurology was consulted, and recommended 
continuous EEG to rule out seizure. 48-hour EEG showed no 
changes suggestive of epilepsy. Overnight pulse oximetry showed 
normal oxygenation; outpatient sleep study was recommended. 
Extensive laboratory evaluation and imaging in the inpatient and 
outpatient settings has been negative for porphyria, HIV, 
anemia, mononucleosis, lymphoma/leukemia, vitamin deficiency, 
heavy metal poisoning, hypothyroidism, adrenal insufficiency, 
hepatitis, or substance use explaining her fatigue. 

From a psychiatric standpoint she was evaluated for possibility 
of conversion disorder given history of depression. She was not 
endorsing depression on this admission. While no acute concerns, 
...a functional d/o (or a functional component) can not be 
excluded from the differential, would want final input from all
specialties and pending diagnostics before further 
consideration."

#Abdominal pain
#Elevated lipase
#Transaminitis
#h/o H pylori
Patient presenting with 3 weeks of abdominal pain, which she 
says started after her upper endoscopy, which showed chronic 
inactive gastritis. She describes bloating and gas pain starting 
hours after eating and interfering with her sleep. This was felt 
to be most likely due to acid reflux and gas. She was started on 
ranitidine 25mg BID and simethicone BID as needed for her pain. 
Liver enzymes returned to normal values on HD1. 

#Leukopenia. The patient has been undergoing extensive 
outpatient work-up for leukopenia, which has shown no clear 
etiology thus far. Patient's fever curves were closely watched 
for signs of infection during this admission, of which there 
were none. Dr. ___ performed a bone marrow biopsy 
during this admission. 

TRANSITIONAL ISSUES
====================
[ ] Please schedule an appointment with the ___ 
(___) to assess the quality of your sleep
[ ] Please follow-up with your primary care physician to discuss 
treatment for H. pylori as has apparently refused in past
[ ] Please follow-up with your hematologist/oncologist to 
discuss your bone marrow biopsy. Your next appointment is 
scheduled for ___ at 2:30pm. 
[ ] if negative hematologic workup for Leukopenic cannot explain 
present symptoms and medical workup negative would refer back to 
psychiatry for consideration of functional d/o - conversion d/o. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [ClearLax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*0 
3.  Ranitidine 75 mg PO BID Duration: 9 Days 
RX *ranitidine HCl [Acid Reducer (ranitidine)] 75 mg 1 tablet(s) 
by mouth twice daily Disp #*18 Tablet Refills:*0 
4.  Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses
#Fatigue
#Leukopenia

Secondary diagnoses
#Chronic inactive gastritis
#h/o H. pylori

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure to participate in your care.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted to the hospital because at an appointment with 
your outpatient hematology/oncology doctor, you had an episode 
of extreme fatigue, where you didn't respond to what was 
happening around you. You had also been having some abdominal 
pain lately.

WHAT HAPPENED WHILE I WAS HERE?
- We performed several blood and urine tests to investigate why 
you have been feeling so fatigued, but unfortunately, these 
tests did not provide an answer.
- The neurology doctors came to ___ you, and they monitored your 
brain activity over 48 hours using a test called an EEG. This 
testing did not show any seizure activity.
- Your oxygen levels were measured overnight while you slept, 
and your oxygen levels stayed high. Because of this, it seems 
unlikely that your tiredness is caused by problems getting 
enough oxygen while you sleep.
- We were concerned that stress could be contributing to your 
extreme fatigue, so the psychiatry doctors came to ___ you. They 
did not recommend any changes to the care you were receiving 
while in the hospital.
- You received an MRI of your brain, which didn't show 
concerning findings in your brain.
- You received a bone marrow biopsy to further investigate your 
low white blood cell count. Dr. ___ will discuss these 
results with you at your follow-up appointment scheduled with 
her for ___.

WHAT SHOULD I DO WHEN I GET HOME?
- Please go to all of your doctor's appointments, as shown 
below.
- Please finish the 2 week course of ranitidine (an acid 
blocker) for your stomach pain, and consider having your H. 
pylori infection treated to prevent your stomach pain from 
coming  back in the future.
- If you develop increasing pain and the bone marrow biopsy site 
or fevers/chills please call Dr. ___ below) or PCP if 
unable to connect to determine need for an appointment versus 
presenting to the ED for further evaluation. 

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___